US06355642B1
6-Nitro-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
A 100 mg (0.32 mmol) portion of 2a-(4-bromobutyl)-2a,3,4,5-Tetrahydrobenz [cd] indole-2 (1H) -one was dissolved in 2 ml of acetic acid, and the resulting solution was cooled to 15° C. Thereto was added acetic acid solution (1 ml) containing 46 al (0.48 mmol) of acetic anhydride and 19 μl (0.48 mmol) of nitric acid, and the mixture was stirred overnight at 15° C. The reaction solution was extracted with chloroform and washed with water and sodium bicarbonate aqueous solution in that order. After drying (Na2SO4), the solvent was evaporated under a reduced pressure, and the resulting residue was purified by a silica gel column chromatography (20 cc; elution with ethyl acetate-hexane=1:2) to obtain 83 mg of the title compound (73% in yield). 1H-NMR (CDCl3): δ 1.25 (1 H, m), 1.46 (2 H, m), 1.73-2.02 (5 H, m), 2.18 (2 H, m), 3.24 (2 H, m), 3.33 (2 H, t), 6.89 (1 H, d), 8.15 (1 H, d), 9.07 (1 H, s). EI m/z 352, 354 (1:1) (M+H)+

reactant | 2a-(4-bromobutyl)-2a,3,4,5-Tetrahydrobenz [cd] indole-2 (1H) -one | BrCCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H18BrNO
reactant | acetic anhydride | 0.48 mmol | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 0.48 mmol, 19 μl | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 6-Nitro-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 83 mg, 73% | [N+](=O)([O-])C1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCBr | C15H17BrN2O3
